US07399775B2
N-[5-[(4-Chlorophenyl)sulfonyl]-5-(2,5-difluorophenyl)pentyl]methanesulfonamide
In dichloromethane (4 ml) was dissolved t-butyl N-[5-[(4-chlorophenyl)sulfonyl]-5(2,5-difluorophenyl)pentyl]-N-methylsulfonylcarbamate (108 mg, 0.196 mmol), followed by the addition of trifluoroacetic acid (1 ml) at room temperature. The resulting mixture was stirred at room temperature for 3 hours. The reaction mixture was diluted with dichloromethane, washed successively with water, a saturated aqueous solution of sodium bicarbonate, and brine, dried over magnesium sulfate and then concentrated. The residue thus obtained was subjected to flash chromatography on a silica gel column, and the fraction obtained from the hexane:ethyl acetate=1:1 eluate was concentrated, whereby the solid thus obtained was recrystallized from ethyl acetate-hexane, whereby the title compound (75.5 mg, 0.167 mmol, 85%) was obtained as a white powder.

reactant | t-butyl N-[5-[(4-chlorophenyl)sulfonyl]-5(2,5-difluorophenyl)pentyl]-N-methylsulfonylcarbamate | 0.196 mmol, 108 mg | ClC1=CC=C(C=C1)S(=O)(=O)C(CCCCN(C(OC(C)(C)C)=O)S(=O)(=O)C)C1=C(C=CC(=C1)F)F | C23H28ClF2NO6S2
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | N-[5-[(4-Chlorophenyl)sulfonyl]-5-(2,5-difluorophenyl)pentyl]methanesulfonamide | 0.167 mmol, 75.5 mg, 85% | ClC1=CC=C(C=C1)S(=O)(=O)C(CCCCNS(=O)(=O)C)C1=C(C=CC(=C1)F)F | C18H20ClF2NO4S2
